US04161538
2-[4-(2-Oxocyclopentan-1-ylmethyl)phenyl]-propionic Acid
Twenty grams of ethyl 2-[4-(1-ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]propionate was dissolved in 30 ml of dioxane and 100 ml of 47% hydrobromic acid and the solution was refluxed for 6 hours. The reaction mixture was then extracted with ether, the extract was washed with water, dried over anhydrous sodium sulfate, and the solvent removed by distillation to give an yellow oily substance. The product was subjected to a vacuum distillation to yield 13.1 g of the desired compound as a colorless oily substance, b.p. 190°-195° C. at 0.3 mm Hg (bath temp.). The compound solidified as it was cooled to crystals, m.p. 108.5°-111° C.

reactant | ethyl 2-[4-(1-ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]propionate | Twenty grams | C(C)OC(=O)C1(C(CCC1)=O)CC1=CC=C(C=C1)C(C(=O)OCC)C | C20H26O5
reactant | hydrobromic acid | 100 ml | Br | BrH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2-Oxocyclopentan-1-ylmethyl)phenyl]-propionic Acid | 13.1 g | O=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C15H18O3
